US05618839
Methyl 4-mercaptobenzoate
To a solution of 4-mercaptobenzoic acid (Apin, 1.72 g, 11.17 mmol) in anhydrous methyl alcohol (20.0 mL) was added concentrated sulfuric acid (0.43 mL). The reaction mixture is then warmed to reflux for 16 h, concentrated in vacuo, diluted with ethyl acetate (100 mL) and washed with saturated sodium bicarbonate (2×100 mL). The organic phase is then separated, dried over anhydrous magnesium sulfate and concentrated in vacuo to give 712 mg (Y: 38%) of the title product; 1H-NMR (CDCl3): δ7.89 (d, J=8.7 Hz, 2H), 7.29 (d, J=8.7 Hz, 2H), 3.90 (s, 3H), 3.60 (s, 1H).

reactant | 4-mercaptobenzoic acid | 11.17 mmol, 1.72 g | SC1=CC=C(C(=O)O)C=C1 | C7H6O2S
reactant | sulfuric acid | 0.43 mL | S(O)(O)(=O)=O | H2O4S
reactant | methyl alcohol | 20.0 mL | CO | CH4O
product | Methyl 4-mercaptobenzoate | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
